US07307084B2
3. 2,3-Dimethyl-8-phenyl-3,6,7,8tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Amide
To a suspension of 0.3 g (0.93 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid in dichloromethane (9 ml) were added 0.45 g (1.4 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′, N′-tetramethyluronium tetrafluoroborate (TBTU) and the suspension was stirred for 64 h at room temperature. 11.1 ml (5.6 mmol) Ammonia (0.5 M in dioxane) were added and the mixture was stirred for 24 h at room temperature. The precipitate was filtered off and dried in vacuo at 40° C. to afford 0.15 g (48%) of the title compound as a yellow solid. m.p. 264°-267° C.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid | 0.93 mmol, 0.3 g | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′, N′-tetramethyluronium tetrafluoroborate | 1.4 mmol, 0.45 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Ammonia | 5.6 mmol, 0.5 M, 11.1 ml | N | H3N
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 2,3-Dimethyl-8-phenyl-3,6,7,8tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Amide | 0.15 g, 48% | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)N | C19H19N3O2
